US09120994B2
To a suspension of LiAlH4 (4.8 g, 126 mmol) in THF (100 ml) was added dropwise a solution of 2,4,7-trimethylocta-2,6-dienal (20 g, 114 mmol) in THF (60 ml) at 5° C. over 1 h. The mixture was stirred at room temperature for 1 h. 5 ml of water, 5 ml of 15% aq. NaOH and 15 ml of water were carefully added subsequently. The mixture was stirred for 1 h. Precipitates were filtered and the filtrate was concentrated in vacuo. The residue was Kugelrohr-distilled to give 2,4,7-trimethylocta-2,6-dien-1-ol (98%). bp: 82-83° C./1 mbar.

reactant | LiAlH4 | 126 mmol, 4.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,4,7-trimethylocta-2,6-dienal | 114 mmol, 20 g | CC(C=O)=CC(CC=C(C)C)C | C11H18O
reactant | water | 5 ml | O | H2O
reactant | NaOH | 5 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2,4,7-trimethylocta-2,6-dien-1-ol | 98% | CC(CO)=CC(CC=C(C)C)C | C11H20O
